US04336255
A mixture of 10 g of 4,6-dichloro-5-nitropyrimidine in ethanol is reacted at reflux for three days with a slight excess of guanidine to give 4-guanidino-6-chloro-5-nitropyrimidine.

reactant | 4,6-dichloro-5-nitropyrimidine | 10 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | guanidine | NC(=N)N | CH5N3
solvent | ethanol | C(C)O | C2H6O
product | 4-guanidino-6-chloro-5-nitropyrimidine | N(C(=N)N)C1=NC=NC(=C1[N+](=O)[O-])Cl | C5H5ClN6O2
